US07371869B2
To a solution of thiourea (6.79 g, 89.2 mmol) in absolute ethanol (100 mL) was added 1-chloro-butane-2,3-dione (prepared as described by Bonnema, J. et al., Rec. Trav. Chim. Pays-Bas 1960, 79, 1137) (10.75 g, 89.2 mmol) and the mixture stirred at room temperature for 72 hours. The dark brown suspension was concentrated in vacuo, the residue taken up in water (350 mL), acidified with 1M aqueous hydrochloric acid (20 mL) and extracted with ethyl acetate (2×100 mL). The aqueous layer was then neutralized with solid sodium bicarbonate to form a light brown solid which was isolated by filtration. The precipitate was washed with 1:1 hexanes/ether (100 mL), 1:1 hexanes/ethyl acetae (100 mL) and then dried in vacuo over potassium hydroxide to give 1-(2-amino-thiazol-4-yl)-ethanone as a light brown solid (9.91 g, 78%).

reactant | thiourea | 89.2 mmol, 6.79 g | NC(=S)N | CH4N2S
reactant | 1-chloro-butane-2,3-dione | 89.2 mmol, 10.75 g | ClCC(C(C)=O)=O | C4H5ClO2
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 1-(2-amino-thiazol-4-yl)-ethanone | 9.91 g, 78% | NC=1SC=C(N1)C(C)=O | C5H6N2OS
